US05236952
A suspension of 2.91 g of 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone is treated with 1.31 g of thionicotinamide in 50 ml of alcohol and heated to boiling under reflux for 2 hours. After cooling to room temperature the crystals are filtered under suction and recrystallized from N,N-dimethylformamide/alcohol. There is obtained 3-nitro-5-[2-(3-pyridyl)-4-thiazolyl]pyrocatechol of m.p. 279°-281°.

reactant | 2-bromo-3',4'-dihydroxy-5'-nitroacetophenone | 2.91 g | BrCC(=O)C1=CC(=C(C(=C1)[N+](=O)[O-])O)O | C8H6BrNO5
reactant | thionicotinamide | 1.31 g | C(C1=CN=CC=C1)(=S)N | C6H6N2S
product | 3-nitro-5-[2-(3-pyridyl)-4-thiazolyl]pyrocatechol | [N+](=O)([O-])C1=C(C(O)=CC(=C1)C=1N=C(SC1)C=1C=NC=CC1)O | C14H9N3O4S
